Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
iodine
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with h/o melanoma metastatic to lung and brain who 
presents with worsening shortness of breath. He has had a 
melanoma and ___ cell cancer resected in the past. he was 
found to have lung lesion in ___, this was resected in ___ and found to be melanoma. ___ developed pleural 
effusion and was seen at ___ in ___ and had 
thoracentesis. In ___ had PET scan showing progression of 
disease in multiple spots, including brain for which he had 
cyberknife. He had f/u imaging ___ which shows new brain 
lesions and progression of other lesions around his body. He was 
planning on starting ipilimumab soon. 
___ days ago the patient first started noticing shortness of 
breath, initially with walking, then with most activities. 
around the same time he reduced his lasix dose to half because 
he was having to get up frequently at night to urinate. He was 
taking the whole 40mg lasix dose in the morning. He has noticed 
since then that he doesn't have to get up at night anymore. He 
denies any previous history of lung problems other than the 
pleural effusion. He has no fever/chills and only minimal dry 
cough. His wife thinks he felt a bit warm. He has not had a cold 
lately. He has some leg edema but thinks it is better after 
stopping decadron. He has been raising the head of his bed 
because he can breath better that way. He has decreased 
appetite. He does not have n/v or diarrhea. he has no rash but 
has some skin lesions he thinks might be melanoma. 
He came to clinic today and was found to have o2 sats in the mid 
___ when ambulating. He was started on nasal cannula oxygen with 
improvement. Exam and CXR were consistent with pulmonary edema 
and he was admitted for diuresis.
 
Past Medical History:
ONCOLOGIC HISTORY:
-- ___:  Noticed a lesion at the top of his right scalp.  
Biopsy
showed a ___ level IV melanoma.
-- ___:  Wide local excision and sentinel lymph node biopsy
in ___.  Two sentinel lymph nodes were negative for disease. 

Mr. ___ received radiation therapy to the area and was put on
an active surveillance program.
-- ___:  Developed another lesion on his scalp.  This was
again biopsied and found to be ___ cell carcinoma.  This 
was
completely excised and treated with adjuvant radiation therapy.
-- ___:  PET showed a mass in the right lung and a mass in
the left adrenal gland.  Right lung lesion had an SUV of 40 and
the adrenal lesion had an SUV of 6.  He was referred to a
thoracic surgeon.
-- ___: Underwent a right lower lobectomy.  Pathology was
consistent with metastatic melanoma.
-- ___: Presented to urgent care with SOB. He was found 
to
have a right pleural effusion on chest x-ray and was referred to
the ___ Emergency Department.  He had a 
thoracentesis
in the ED. He recalls 750 mL of fluid being drained. 
-- PET ___ showed overall marked progression of disease from
the prior study. There is a brain metastasis in the right
temporal lobe. Non-avid moderate pleural effusion and
several new FDG-avid pulmonary nodules bilaterally and left 
hilar lymphadenopathy.  There are scattered soft tissue nodules
throughout the chest. The left adrenal metastasis has grown in
size. There is new metastatic disease in the pancreas, gastric
wall, retroperitoneal lymph nodes, perinephric fat and anterior
abdominal wall. Two foci of uptake in the right acetabulum and
femoral neck, although without CT correlate, is suspicious for
new metastatic disease. 
-- ___: MRI head right frontal and temporal enhancing 
masses
with surrounding edema suggesting metastatic disease.
Apparently extra-axial dural-based faintly enhancing lesion
adjacent to the left occipital lobe.  This may represent a
dural-based metastasis or a meningioma.
-- ___: right posterior pararenal space soft tissue
nodule was biopsied and c/w metastatic disease; completed CK to
left frontal, left parietal, left temporal, right occipital 
brain
lesions.
-- ___: MRI showed new brain lesions

PMH:
Melanoma as above, gout, bilateral carotid
endarterectomy, hypertension, GERD, congestive heart failure,
prostate cancer with prior radiation, mycobacterial infection 
and
chronic renal failure.
 
Social History:
___
Family History:
Significant history of cancer in his wife and
one of his children with small cell lung cancer.  He has one
sister who died of cancer, otherwise no other significant 
disease
history in the family.
 
Physical Exam:
Physical Examination:
VS: 97.9   136/72    78   22    98%4L 
GEN: Alert, oriented to name, place and situation. mildly 
tachypneic.
HEENT: Pupils equal and reactive, sclerae non-icteric, MMM.
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: mild exp wheeze, rales at both bases, decreased sounds R 
base
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: 2+ pitting edema up to mid shin
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major 
muscle groups
PSYCH: Appropriate and calm.
 
Discharge Exam:
- Patient deceased
 
Pertinent Results:
==================================
            Radiology            
==================================
PA AND LATERAL CHEST ON ___
HISTORY:  ___ man with melanoma.  Evaluate effusion.
IMPRESSION:  PA and lateral chest compared to ___:
Patient has chronic thickening of the pleural margins of both 
lungs. 
Comparing today's study with the most recent prior chest imaging 
examination,
a chest CT on ___, the widespread ground-glass 
abnormality appears to
have progressed.  Since there is also increase in mediastinal 
vascular
caliber, specifically the azygos vein, and heart size, I suspect 
this is
mostly due to pulmonary edema.  There is also suggestion of new 
consolidation
in the posterior segment of the right upper lobe, which could be 
pneumonia,
but I am hesitant to make that assessment given the radiographic 
complexity of
the chest given the extensive pleural abnormality.  In the 
future, it would be
reasonable to obtain chest radiographs concurrently with CT 
scans so that both
are available to serve as baseline for subsequent imaging 
followup.

Bilateral lower extremity doppler US ___
IMPRESSION:  No deep venous thrombosis in the bilateral lower 
extremity veins.

CT chest ___
IMPRESSION:
1  Unchanged metastatic nodules in the lungs bilaterally.
2. Increase in opacities throughout the lungs, right greater 
than left, along
with increase in moderate right pleural effusion likely 
represents pulmonary
edema.  Underlying infection cannot be entirely ruled out.  
3. Unchanged dilation of main pulmonary artery likely 
representing pulmonary
hypertension.

Echocardiogram ___
Conclusions
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and global systolic function 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. The estimated 
cardiac index is normal (>=2.5L/min/m2). Doppler parameters are 
indeterminate for left ventricular diastolic function. Right 
ventricular chamber size is normal. with borderline normal free 
wall function. The aortic valve leaflets are mildly thickened 
(?#). There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Moderate [2+] tricuspid regurgitation is seen. The 
tricuspid regurgitation jet is eccentric and may be 
underestimated. There is moderate pulmonary artery systolic 
hypertension. The end-diastolic pulmonic regurgitation velocity 
is increased suggesting pulmonary artery diastolic hypertension. 
There is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global systolic function. Borderline right ventricular 
systolic function. Mild aortic regurgitation. Mild mitral 
regurgitation. At least moderate tricuspid regurgitation. 
Moderate pulmonary hypertension.  

CXR ___
FRONTAL AND LATERAL CHEST:  Compared to ___, bilateral 
parenchymal
opacities have significantly improved.  Moderate bilateral 
pleural effusions
persist.  There is no pneumothorax.  Cardiac and mediastinal 
silhouettes are
stable. No evidence of pulmonary edema.
 
Brief Hospital Course:
___ man with metastatic melanoma admitted for worsening 
shortness of breath refractory to medical therapy and now 
transitioned to comfort measures.

# Dyspnea: Patient was initially admitted to the FICU with acute 
dyspnea and hypoxia. Initially treated for CHF due to imaging 
suggestive of volume overload, elevated BNP to 8300 and history 
of decreased lasix dose several days prior to admission. He was 
started on diuresis with IV lasix, TTE without significant 
abnormality. Over the first several days of admission, he was in 
negative fluid balance and lost about ___ of fluid however 
without improvement in subjective symptoms or objective 
findings. Records from thoracic surgeon in ___ revealed a 
granuloma resected in ___ which eventually grew MAC. Due to 
lack of improvement he was treated for HCAP with Vanc/Cefepime 
and Levoflxacin and Bactrim for PJP. Several sputum samples 
including induced sputum were sent, but all had oral 
contamination, bronchoscopy was too high risk so was deferred. 
O2 sats continued to worsen eventually requiring ___ via 
nonrebreather mask to maintain o2 sats >90%. The patient had 
previously stated his wishes not to be intubated. He was 
maintained on nonrebreather but unable to be weaned. Hypoxia 
thought related to extensive metastatic disease of his lungs and 
family meeting was held. Decision made that patient preferred 
comfort over further invasive procedure or invasive ventilation. 
He was transitioned to PRN dilaudid and PRN ativan. 
   
# CMO: On ___ the patient remained on high flow nasal cannula 
and face tent. He appeared comfortable and without air hunger. 
Family at bedside happy with care provided and comfortable with 
his level of comfort. He continued to decline and became 
non-interactive and non-verbal. Supportive therapy with 
Morphine, Dilaudid, Lorazepam and Scopolamine patch. On ___ 
patient passed away comfortably with family at bedside. Autopsy 
was declined.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
6. Omeprazole 20 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Vitamin B Complex 1 CAP PO DAILY 
10. Ascorbic Acid ___ mg PO DAILY 
11. Calcitriol 0.25 mcg PO DAILY 
12. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
None
 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
Deceased

Metastatic Melanoma

 
Discharge Condition:
Deceased
 
Discharge Instructions:
Patient passed away ___ at 1:15pm
 
Followup Instructions:
___